US07786108B2
Step 2. Preparation of (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-ethanol
Stir a mixture of (S)-[1-(2-Benzyloxy-ethyl)-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine (0.420 g, 0.612 mmol) and 10% palladium on charcoal (0.210 g) in ethanol (50 mL) under a hydrogen balloon at room temperature for 3 h. Filter the mixture through Celite® and remove the solvents under reduced pressure to provide the title compound as a colorless foam (0.350 g, 97%). MS (ES+): 597 (M+H).

reactant | (S)-[1-(2-Benzyloxy-ethyl)-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.612 mmol, 0.420 g | C(C1=CC=CC=C1)OCCN1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C | C32H31F9N6O
catalyst | palladium on charcoal | 0.210 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-ethanol | 0.350 g, 97% | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)CCO)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C25H25F9N6O
